US08710038B2
2-{5-[(E)-2-Phenylethenyl]-1H-pyrazol-3-yl}-1-benzofuran-6-ol:
To a mixture of (4E)-1-(6-hydroxy-1-benzofuran-2-yl)-5-phenylpent-4-ene-1,3-dione (0.48 mmol) and hydrazine monohydrate (0.02 g, 0.48 mmol) were added ethanol (24 mL) and acetic acid (1 drop) in a sealed tube. The reaction was heated at 65-700° C. overnight. The solvent was removed under reduced pressure to afford crude product. The crude product was purified by reverse phase HPLC. The fractions from HPLC were combined, neutralized with 1.0 N aqueous sodium hydroxide solution, and diluted with ethyl acetate (200 mL). The organic layer was washed with saturated aqueous sodium chloride (50 mL), dried over magnesium sulfate, filtered, and concentrated to afford the product (11% yield): 1H NMR (400 MHz, CD3Cl): δ 7.58 (br d, 2H), 7.35 (m, 4H), 7.25 (t, 2H), 7.10 (br d, 1H), 7.05 (br s, 1H), 6.94 (br d, 1H), 6.88 (br s, 1H), 6.75 (dd, 1H); MS (EI) for C19H14N2O2: 303 (MH+).

reactant | (4E)-1-(6-hydroxy-1-benzofuran-2-yl)-5-phenylpent-4-ene-1,3-dione | 0.48 mmol | OC1=CC2=C(C=C(O2)C(CC(\C=C\C2=CC=CC=C2)=O)=O)C=C1 | C19H14O4
reactant | hydrazine monohydrate | 0.48 mmol, 0.02 g | O.NN
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | ethanol | 24 mL | C(C)O | C2H6O
product | 2-{5-[(E)-2-Phenylethenyl]-1H-pyrazol-3-yl}-1-benzofuran-6-ol | 11% yield | C1(=CC=CC=C1)/C=C/C1=CC(=NN1)C=1OC2=C(C1)C=CC(=C2)O | C19H14N2O2
